data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_468799_0,[C:1]([C:5]([C:7]([C:2]([H:18])([H:19])[H:20])(/[C:4](=[N:3]/[H:9])[N:6]([H:10])[H:11])[H:12])=[C:8]([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1]([C:5]([N:3](/[C:4]([N:6]([H:10])[H:11])=[C:7](\[C:2]([H:18])([H:19])[H:20])[H:12])[H:9])=[C:8]([H:16])[H:17])([H:13])([H:14])[H:15],73.05731499999368
MR_706809_0,[C:1](/[C:4]([C:3]([H:16])([H:17])[H:18])=[N:8]/[C:2]([H:13])([H:14])[H:15])([C:5]([N:6]([H:9])[H:10])=[C:7]([H:19])[H:20])([H:11])[H:12]>>[C:1](=[C:4]([C:3]([H:16])([H:17])[H:18])[N:8]([C:2]([H:13])([H:14])[H:15])[C:5]([N:6]([H:9])[H:10])=[C:7]([H:19])[H:20])([H:11])[H:12],72.27168499997973
MR_285359_2,[C:1]([C:3]1([O:6][N:4]([H:8])[H:9])[C:2](=[C:5]([H:14])[H:15])[N:7]1[H:10])([H:11])([H:12])[H:13]>>[C:1](/[C:3]([C:2](=[C:5]([H:14])[H:15])[O:6][N:4]([H:8])[H:9])=[N:7]/[H:10])([H:11])([H:12])[H:13],65.30078749999461
MR_1524_1,[C:1](/[C:4]([C:6]([C:2]([H:15])([H:16])[H:17])(/[C:5](=[N:3]/[H:8])[H:10])[H:11])=[N:7]/[H:9])([H:12])([H:13])[H:14]>>[C:1](/[C:4]([N:3](/[C:5](=[C:6](/[C:2]([H:15])([H:16])[H:17])[H:11])[H:10])[H:8])=[N:7]/[H:9])([H:12])([H:13])[H:14],67.48009499998545
MR_140730_1,[C:1](/[C:3]([O:5][H:8])=[N:6]\[H:9])(/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:7]\[H:10])([H:11])[H:12]>>[C:1](=[C:3]([O:5][H:8])[N:6](/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:7]\[H:10])[H:9])([H:11])[H:12],72.06523750000159
MR_208551_0,[C:1]([C:4]([O:7][H:11])=[O:8])([C:5]([N:3]([C:2]([H:14])([H:15])[H:16])[H:12])=[O:9])([O:6][H:10])[H:13]>>[C:1]([C:4]([C:5]([N:3]([C:2]([H:14])([H:15])[H:16])[H:12])=[O:9])([O:7][H:11])[O:8][H:10])(=[O:6])[H:13],59.51963000003758
MR_684430_0,[C:1](=[C:3](\[O:6][H:9])[H:12])([O:5][H:8])/[N:7]=[C:4](\[N:2]([H:10])[H:11])[H:13]>>[C:1]1([O:5][H:8])=[N:7][C@@:4]([N:2]([H:10])[H:11])([H:13])[C@@:3]1([O:6][H:9])[H:12],38.47014249996391
MR_668799_1,[C:1]([N:3]([C:2]([H:11])([H:12])[H:13])[N:6]=[O:7])([O:4][H:9])([O:5][H:8])[H:10]>>[C:1]([O:4][H:9])([O:5][H:8])([O:7]/[N:6]=[N:3]/[C:2]([H:11])([H:12])[H:13])[H:10],38.70294500001819
MR_515444_2,[C:1]1([C:2]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[H:8])([H:7])[C:3]([H:9])([H:10])[O:6]1>>[C:1]([C:2]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[H:8])([C:3]([H:7])([H:9])[H:10])=[O:6],65.17968000001503
MR_489819_1,[C:1]([C:3]([O:7][H:12])=[O:8])([C:4]([C:2]([H:13])([H:14])[H:15])=[O:9])([O:5][H:10])[O:6][H:11]>>[C:1](=[C:4]([C:2]([H:13])([H:14])[H:15])[O:9][C:3]([O:7][H:12])=[O:8])([O:5][H:10])[O:6][H:11],65.41687499998687
MR_24081_0,[C:1](/[C:5](=[C:4](/[C:3]([O:7][H:9])=[O:8])[H:12])[H:13])([O:6][C:2]([H:14])([H:15])[H:16])([H:10])[H:11]>>[C:1](=[C:5]([C:4]([C:3]([O:7][H:9])=[O:8])([O:6][C:2]([H:14])([H:15])[H:16])[H:12])[H:13])([H:10])[H:11],64.264157500008
MR_331422_2,[C:1](=[C:6](/[C:2]([H:14])([H:15])[H:16])[C:8]([C:4]([H:20])([H:21])[H:22])([C:5]([H:23])([H:24])[H:25])/[C:7]([C:3]([H:17])([H:18])[H:19])=[N:10]/[H:13])(\[O:9][H:11])[H:12]>>[C:1]([C:6]([C:2]([H:14])([H:15])[H:16])=[C:8]([C:4]([H:20])([H:21])[H:22])[C:5]([H:23])([H:24])[H:25])(/[C:7]([C:3]([H:17])([H:18])[H:19])=[N:10]/[H:13])([O:9][H:11])[H:12],72.13112500004925
MR_498540_0,[C:1]([C:3]([N:2]([O:5][H:8])[N:6]=[O:7])=[C:4]([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:1]([C:3](=[C:4]([H:12])[H:13])[O:7]/[N:6]=[N:2]/[O:5][H:8])([H:9])([H:10])[H:11],55.668662499986965
MR_456222_1,[C:1]([C:2]([H:14])([H:15])[H:16])([N:3]([O:6][H:8])[H:9])(/[C:5](=[N:7]/[N:4]([H:11])[H:12])[H:13])[H:10]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:5](/[N:7]([N:3]([O:6][H:8])[H:9])[N:4]([H:11])[H:12])[H:13])[H:10],59.25670750002368
MR_229007_0,[C:1](/[C:4](=[C:3](\[N:2]([O:7][H:8])[H:9])[N:5]([H:10])[H:11])[N:6]([H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:4]1([N:6]([H:12])[H:13])[N:2]([H:9])[C:3]1([N:5]([H:10])[H:11])[O:7][H:8])([H:14])([H:15])[H:16],15.619729999978489
MR_444135_1,[C:1]([N:2](/[C:3]([N:4]([H:10])[H:11])=[C:5](/[O:7][H:9])[H:12])[N:8]=[C:6]([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5]([O:7][H:9])([N:8]=[C:6]([H:16])[H:17])[H:12])([H:13])([H:14])[H:15],46.75251500002645
MR_370328_0,[C:1](=[C:6](\[C:5]([C:3]([H:17])([H:18])[H:19])([C:4]([C:2]([H:14])([H:15])[H:16])=[O:9])[O:8][H:11])[H:13])(\[O:7][H:10])[H:12]>>[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:9])(/[C:6](=[C:5](\[C:3]([H:17])([H:18])[H:19])[O:8][H:11])[H:13])([O:7][H:10])[H:12],60.76145249996984
MR_368062_1,[C:1]([C:2](=[C:3]([N:4]([H:10])[H:11])[N:5]([H:9])[H:12])[O:7][C:6](=[O:8])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C@@:2]1([C:6](=[O:8])[H:13])[C:3]([N:4]([H:10])[H:11])([N:5]([H:9])[H:12])[O:7]1)([H:14])([H:15])[H:16],30.319544999996708
MR_684505_1,[C:1](=[C:4]([C:2]([H:15])([H:16])[H:17])[C:3]([N:5]([H:10])[H:11])([C:6](=[O:8])[H:12])[O:7][H:9])([H:13])[H:14]>>[C:1](/[C:4]([C:2]([H:15])([H:16])[H:17])=[C:3](/[N:5]([H:10])[H:11])[O:7][H:9])([C:6](=[O:8])[H:12])([H:13])[H:14],45.61799500000163
